US05051508
Preparation of 1-(4-methoxy-2-methylphenyl)-4-methyl-6-methoxy-2,3-dihydropyrrolo[3,2-c]quinoline
A mixture of 2-methyl-3-(2-chloroethyl)-4-chloro-8-methoxyquinoline hydrochloride (15.33 g, 50 mmol), 4-methoxy-2-methylaniline (9.0 ml. 70 mmol) and 2-propanol (200 ml) was heated at reflux for 2 days, then evaporated. The crude product was triturated with ether then recrystallised twice from aqueous ethanol to give the title compound (3.16g), m.p. 163°-167°.

reactant | 2-methyl-3-(2-chloroethyl)-4-chloro-8-methoxyquinoline hydrochloride | 50 mmol, 15.33 g | Cl.CC1=NC2=C(C=CC=C2C(=C1CCCl)Cl)OC
reactant | 4-methoxy-2-methylaniline | 70 mmol, 9.0 ml | COC1=CC(=C(N)C=C1)C | C8H11NO
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | 1-(4-methoxy-2-methylphenyl)-4-methyl-6-methoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 3.16g | COC1=CC(=C(C=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC)C)C | C21H22N2O2
